### PR TITLE
[Merged by Bors] - feat: a bounded variation function is continuous off a countable set

### PR DESCRIPTION
**Pull request by sgouezel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/EMetricSpace/VariationOnFromTo.lean [hunk 1]
```diff
@@ -259,30 +259,122 @@ theorem rightLim_eq {E : Type*} [PseudoMetricSpace E] [CompleteSpace E]
...
+  rintro y ⟨ys, hxy⟩
+  rw [← variationOnFromTo.add hg.locallyBoundedVariationOn as xs ys, add_comm]
+  simp only [Pi.add_apply, add_left_inj]
+  grind [variationOnFromTo]
+
+theorem _root_.BoundedVariationOn.continuousWithinAt_variationOnFromTo_inter_Ici_iff
+    [TopologicalSpace α] [OrderTopology α] (hg : BoundedVariationOn g s)
+    {a x : α} (as : a ∈ s) (xs : x ∈ s) :
+    ContinuousWithinAt (variationOnFromTo g s a) (s ∩ Ici x) x
+      ↔ ContinuousWithinAt g (s ∩ Ici x) x := by
```
Comment (EtienneC30) [inline Mathlib/Topology/EMetricSpace/VariationOnFromTo.lean]:
```suggestion
    ContinuousWithinAt (variationOnFromTo g s a) (s ∩ Ici x) x ↔
      ContinuousWithinAt g (s ∩ Ici x) x := by
```

File: Mathlib/Topology/EMetricSpace/VariationOnFromTo.lean [hunk 2]
```diff
@@ -259,30 +259,122 @@ theorem rightLim_eq {E : Type*} [PseudoMetricSpace E] [CompleteSpace E]
...
+  refine ⟨fun h ↦ ?_, fun h ↦ hg.continuousWithinAt_variationOnFromTo_inter_Ici as xs h⟩
+  simp only [ContinuousWithinAt, tendsto_iff_edist_tendsto_0] at h ⊢
+  apply tendsto_of_tendsto_of_tendsto_of_le_of_le' tendsto_const_nhds h (by simp)
+  filter_upwards [self_mem_nhdsWithin] with y hy
+  rw [edist_eq_enorm_sub, variationOnFromTo.sub_right hg.locallyBoundedVariationOn as hy.1 xs,
+    variationOnFromTo.eq_of_le _ _ hy.2]
+  grw [eVariationOn.edist_le (s := s ∩ Icc x y) _ (by grind) (by grind)]
```
Comment (EtienneC30) [inline Mathlib/Topology/EMetricSpace/VariationOnFromTo.lean]:
```suggestion
  grw [edist_eq_enorm_sub, variationOnFromTo.sub_right hg.locallyBoundedVariationOn as hy.1 xs,
    variationOnFromTo.eq_of_le _ _ hy.2,
    eVariationOn.edist_le (s := s ∩ Icc x y) _ (by grind) (by grind)]
```

File: Mathlib/Topology/EMetricSpace/VariationOnFromTo.lean [hunk 3]
```diff
@@ -259,30 +259,122 @@ theorem rightLim_eq {E : Type*} [PseudoMetricSpace E] [CompleteSpace E]
...
+  rw [← variationOnFromTo.add hg.locallyBoundedVariationOn as xs ys, add_comm]
+  simp only [Pi.add_apply, Pi.neg_apply, add_left_inj]
+  rw [variationOnFromTo.eq_neg_swap]
+  grind [variationOnFromTo]
+
+theorem _root_.BoundedVariationOn.continuousWithinAt_variationOnFromTo_inter_Iic_iff
+    [TopologicalSpace α] [OrderTopology α] (hg : BoundedVariationOn g s)
+    {a x : α} (as : a ∈ s) (xs : x ∈ s) :
+    ContinuousWithinAt (variationOnFromTo g s a) (s ∩ Iic x) x
+      ↔ ContinuousWithinAt g (s ∩ Iic x) x := by
```
Comment (EtienneC30) [inline Mathlib/Topology/EMetricSpace/VariationOnFromTo.lean]:
```suggestion
    ContinuousWithinAt (variationOnFromTo g s a) (s ∩ Iic x) x ↔
      ContinuousWithinAt g (s ∩ Iic x) x := by
```

File: Mathlib/Topology/EMetricSpace/VariationOnFromTo.lean [hunk 4]
```diff
@@ -259,30 +259,122 @@ theorem rightLim_eq {E : Type*} [PseudoMetricSpace E] [CompleteSpace E]
...
+  refine ⟨fun h ↦ ?_, fun h ↦ hg.continuousWithinAt_variationOnFromTo_inter_Iic as xs h⟩
+  simp only [ContinuousWithinAt, tendsto_iff_edist_tendsto_0] at h ⊢
+  apply tendsto_of_tendsto_of_tendsto_of_le_of_le' tendsto_const_nhds h (by simp)
+  filter_upwards [self_mem_nhdsWithin] with y hy
+  rw [edist_eq_enorm_sub, variationOnFromTo.sub_right hg.locallyBoundedVariationOn as hy.1 xs,
+    variationOnFromTo.eq_of_ge _ _ hy.2, enorm_neg]
+  grw [eVariationOn.edist_le (s := s ∩ Icc y x) _ (by grind) (by grind)]
```
Comment (EtienneC30) [inline Mathlib/Topology/EMetricSpace/VariationOnFromTo.lean]:
```suggestion
  grw [edist_eq_enorm_sub, variationOnFromTo.sub_right hg.locallyBoundedVariationOn as hy.1 xs,
    variationOnFromTo.eq_of_ge _ _ hy.2, enorm_neg,
    eVariationOn.edist_le (s := s ∩ Icc y x) _ (by grind) (by grind)]
```

File: Mathlib/Topology/EMetricSpace/VariationOnFromTo.lean [hunk 5]
```diff
@@ -259,30 +259,122 @@ theorem rightLim_eq {E : Type*} [PseudoMetricSpace E] [CompleteSpace E]
...
+    ContinuousWithinAt (variationOnFromTo g s a) s x ↔ ContinuousWithinAt g s x := by
+  rw [continuousWithinAt_iff_continuous_left_right,
+    hg.continuousWithinAt_variationOnFromTo_inter_Iic_iff as xs,
+    hg.continuousWithinAt_variationOnFromTo_inter_Ici_iff as xs,
+    ← continuousWithinAt_iff_continuous_left_right]
+
+theorem _root_.BoundedVariationOn.continuousAt_variationOnFromTo_iff
+    [TopologicalSpace α] [OrderTopology α] (hg : BoundedVariationOn g univ) (a x : α) :
+    ContinuousAt (variationOnFromTo g univ a) x ↔ ContinuousAt g x := by
+  simpa [← continuousWithinAt_univ] using
```
Comment (EtienneC30) [inline Mathlib/Topology/EMetricSpace/VariationOnFromTo.lean]:
```suggestion
  simpa [continuousWithinAt_univ] using
```

File: Mathlib/Topology/EMetricSpace/VariationOnFromTo.lean [hunk 6]
```diff
@@ -259,30 +259,122 @@ theorem rightLim_eq {E : Type*} [PseudoMetricSpace E] [CompleteSpace E]
...
+    [TopologicalSpace α] [OrderTopology α] (hf : BoundedVariationOn g univ) :
+    Set.Countable {x | ¬ ContinuousAt g x} := by
+  nontriviality α
+  inhabit α
+  simp only [← hf.continuousAt_variationOnFromTo_iff default]
+  apply Monotone.countable_not_continuousAt
+  rw [← monotoneOn_univ]
+  exact variationOnFromTo.monotoneOn hf.locallyBoundedVariationOn (mem_univ _)
+
 end variationOnFromTo
```
Comment (EtienneC30) [inline Mathlib/Topology/EMetricSpace/VariationOnFromTo.lean]: I would suggest to close the namespace earlier in the file to avoid all those `_root_` in the names.

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

File: Mathlib/Topology/EMetricSpace/VariationOnFromTo.lean (hunk 6 above)
Comment (sgouezel) [reply Mathlib/Topology/EMetricSpace/VariationOnFromTo.lean]: Good idea, done.

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge

**Comment by ocfnash** [comment]
Thanks!

bors merge
